US08445507B2
Synthesis of 5-isothiocyanato-3-trifluoromethylpyridine-2-carbonitrile, A12
To a heterogeneous mixture of 2-cyano-3-(trifluoromethyl)-5-nitropyridine A11 (0.075 g, 0.4 mmol) in water (2 ml) was added thiophosgene (50 μl). The mixture was stirred for 2 hours and then washed with water and extracted with chloroform. The organic layer was dried over MgSO4 and concentrated to yield compound A12 (0.087 g, 0.38 mmol, 95%). 1H NMR (400 MHz, CDCl3) δ 7.85 (d, J=2.4 Hz, 1H), 8.72 (d, J=2.4 Hz, 1H); 13C NMR (100 MHz, CDCl3) δ 113.61, 121.04 (q, J=273.1 Hz), 127.41, 130.38 (q, J=4.3 Hz), 131.44 (q, J=34.4 Hz), 133.55, 144.75, 150.30.

reactant | 2-cyano-3-(trifluoromethyl)-5-nitropyridine | C(#N)C1=NC=C(C=C1C(F)(F)F)[N+](=O)[O-] | C7H2F3N3O2
reactant | thiophosgene | 50 μl | C(=S)(Cl)Cl | CCl2S
solvent | water | 2 ml | O | H2O
product | 5-isothiocyanato-3-trifluoromethylpyridine-2-carbonitrile | N(=C=S)C=1C=C(C(=NC1)C#N)C(F)(F)F | C8H2F3N3S
